US09034866B2
Synthesis of 10-bromo-9-fluoro-3-((1-methyl-1H-pyrazol-5-yl)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide
10-bromo-9-fluoro-3-((1-methyl-1H-pyrazol-5-yl)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide was prepared similarly to as described in General Procedure L. Methyl 10-bromo-9-fluoro-3-((1-methyl-1H-pyrazol-5-yl)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxylate was reacted with sodium methoxide and formamide to afford 11 mg (11% crude yield) of the crude title compound which was carried forward without further purification.

reactant | Methyl 10-bromo-9-fluoro-3-((1-methyl-1H-pyrazol-5-yl)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxylate | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)OC)CC3=CC=NN3C)C1)F | C18H16BrFN4O3
reactant | sodium methoxide | C[O-].[Na+]
reactant | formamide | C(=O)N | CH3NO
product | 10-bromo-9-fluoro-3-((1-methyl-1H-pyrazol-5-yl)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)CC3=CC=NN3C)C1)F | C17H15BrFN5O2
